US08809382B2
Step 4: Methyl-5-(5-chloro-2-hexyl-1-methyl-1H-indol-3-yl)-3-(R)-methyl-5-oxopentanoate
To the cold solution of 5-Chloro-2-hexyl-1-methyl-1H-indole in methylene chloride was added dimethyl aluminum chloride solution and was stirred for 30 minutes. Then (S)-methyl 5-chloro-3-methyl-5-oxopentanoate in methylene chloride was added to the reaction mixture and was stirred for 3 hours. The reaction mixture was then treated with saturated ammonium chloride and ethyl acetate. The product was purified by column chromatography.

reactant | 5-Chloro-2-hexyl-1-methyl-1H-indole | ClC=1C=C2C=C(N(C2=CC1)C)CCCCCC | C15H20ClN
reactant | dimethyl aluminum chloride | [Cl-].C[Al+]C
reactant | (S)-methyl 5-chloro-3-methyl-5-oxopentanoate | ClC(C[C@H](CC(=O)OC)C)=O | C7H11ClO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl-5-(5-chloro-2-hexyl-1-methyl-1H-indol-3-yl)-3-(R)-methyl-5-oxopentanoate | COC(C[C@@H](CC(=O)C1=C(N(C2=CC=C(C=C12)Cl)C)CCCCCC)C)=O | C22H30ClNO3
